US03948996
Sodium ethoxide (490 mg.) is added, during about 10 minutes and under nitrogen, to a stirred solution of diethyl 3-ethoxycarbonyl-2-methylprop-2-enylphosphonate (1.93 g.) and 7-methylthio-3,7-dimethyloctan-1-al (1.35 g.) in 20 ml. of dimethylformamide, cooled to 0°. The reaction mixture is stirred at room temperature for about 16 hours and then is diluted with water and extracted with ether. The ethereal extracts are washed with brine, dried over calcium sulfate and evaporated to yield ethyl 7-methylthio-3,7,11-trimethyldodeca-2,4-dienoate, predominantly the trans, trans isomer, which can be purified by chromatography or distillation.

reactant | Sodium ethoxide | 490 mg | [O-]CC.[Na+]
reactant | diethyl 3-ethoxycarbonyl-2-methylprop-2-enylphosphonate | 1.93 g | C(C)OC(=O)C=C(CP(OCC)(OCC)=O)C | C11H21O5P
reactant | 7-methylthio-3,7-dimethyloctan-1-al | 1.35 g | CSC(CCCC(CC=O)C)(C)C | C11H22OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 7-methylthio-3,7,11-trimethyldodeca-2,4-dienoate | CSC(CC=CC(=CC(=O)OCC)C)(CCCC(C)C)C | C18H32O2S
